US04761246
Benzylidene-p-hydroxyaniline as a known substance (m.p.: 185° C.) (140 g) was dissolved in ethanol (700 ml) containing KOH (43 g), followed by dropwise adding S(+)-2-octyl p-toluenesulfonate (218 g) at 70° C., heating the mixture under reflux for 20 hours, adding a 5% aqueous solution of NaHCO3 (50 ml), water (200 ml) and toluene (800 ml), separating the toluene layer, washing with a 2N aqueous solution of NaOH, distilling off toluene and recrystallizing from ethanol to obtain optically active benzylidene-p-(1-methyl-heptyloxy)aniline (m.p. 47.3° C.)(105 g).

reactant | Benzylidene-p-hydroxyaniline | C(C1=CC=CC=C1)=NC1=CC=C(C=C1)O | C13H11NO
reactant | KOH | 43 g | [OH-].[K+]
reactant | NaHCO3 | 50 ml | C(=O)(O)[O-].[Na+]
reactant | water | 200 ml | O | H2O
reactant | toluene | 800 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 700 ml | C(C)O | C2H6O
product | benzylidene-p-(1-methyl-heptyloxy)aniline | 105 g | C(C1=CC=CC=C1)=NC1=CC=C(C=C1)OC(CCCCCC)C | C21H27NO
